US08211919B2
To a solution of 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide (40.0 mg) in dichloromethane (0.80 mL) were added pyridine (0.0533 mL) and methylsulfonyl chloride (0.0204 mL) at 0° C. and the mixture was stirred at ambient temperature for 2 days. Water (4.0 mL) was added to the mixture at ambient temperature and the mixture was extracted with ethyl acetate (6.0 mL). The organic layer was washed successively with saturated sodium bicarbonate aqueous solution and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (4% methanol in chloroform) to afford 2-[(methylsulfonyl)(phenyl)amino]-N-[4-(4-pyridinyl)phenyl]acetamide (31.4 mg) as white crystals.

reactant | 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide | 40.0 mg | N(C1=CC=CC=C1)CC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1 | C19H17N3O
reactant | pyridine | 0.0533 mL | N1=CC=CC=C1 | C5H5N
reactant | methylsulfonyl chloride | 0.0204 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 4.0 mL | O | H2O
solvent | dichloromethane | 0.80 mL | ClCCl | CH2Cl2
product | 2-[(methylsulfonyl)(phenyl)amino]-N-[4-(4-pyridinyl)phenyl]acetamide | 31.4 mg | CS(=O)(=O)N(CC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1)C1=CC=CC=C1 | C20H19N3O3S
